* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADHV4702-1 1 2 3 4 5 6 7
C10 N005 0 .1f Rpar=100K noiseless
C16 N004 N006 24p
C7 4 1 3.95p Rser=1k noiseless
C4 2 1 12.9p Rser=1k noiseless
C13 4 5 10p
D1 3 4 DESD
D2 5 3 DESD
C20 N004 0 1p
D3 N004 0 DANTISAT
G4 0 N008 N007 0 1m
D5 2 4 DESD
D8 5 2 DESD
D11 1 4 DESD
D12 5 1 DESD
D13 2 1 DINCLP N=4
C21 N008 0 7p Rpar=1k noiseless
R5 N006 0 1 noiseless
G3 0 N006 N009 Mid 1
A6 N005 0 _SHDN 0 0 0 N007 0 OTA g=1m linear en=8n*(1+freq/10Meg)**1.9 enk=15 vlow=-1e309 vhigh=1e309
C12 4 3 5p
C14 3 5 5p
G5 0 XX N004 0 1m
C9 XX 0 151.2p noiseless Rser=52.6 Rpar=1k
C1 1 5 3.95p Rser=1k noiseless
C3 4 2 3.95p Rser=1k noiseless
C5 2 5 3.95p Rser=1k noiseless
M1 N009 PG 4 4 PI temp=27
D6 4 PG DLIMP
C6 4 PG 200f Rser=600k noiseless
B3 PG 4 I=(.5+.5*tanh((V(_SHDN)-500m)/200m))*dnlim(100n-1.2u*(23.6*V(XX)-750m),100n,100n)
M2 N009 NG 5 5 NI temp=27
D7 NG 5 DLIMN
C11 NG 5 200f Rser=600k noiseless
B4 5 NG I=(.5+.5*tanh((V(_SHDN)-500m)/200m))*dnlim(100n+1.2u*(23.6*V(XX)+650m),100n,100n)
C2 N007 0 7p Rpar=1k noiseless
C8 X3 0 7p Rpar=1k noiseless
C15 PG N009 3f
C17 N009 NG 3f
A2 0 N008 0 0 0 0 X3 0 OTA g=1m linear vlow=-1e308 vhigh=1e308
C18 N012 0 100p Rpar=1k noiseless
C19 SLWFAC2 0 100p Rpar=100Meg noiseless
D9 N012 SLWFAC2 DRISE
D10 SLWFAC2 N012 DFALL
B5 0 N004 I=(.5+.5*tanh((V(_SHDN)-500m)/200m))*uplim(dnlim(703u*V(X3),-1.8m*uplim(V(SLWFAC2),1,50m),100u),1.8m*uplim(V(SLWFAC2),1,50m),100u)
B6 0 N012 I=uplim(dnlim(300u*ABS(V(X3))-200u,0,100u)+100u,2m,200u)
S1 N014 4 6 N014 SREG
R7 N014 7 400k noiseless
C22 6 7 1p
D14 N014 5 DBSD
C23 5 N014 1p
A3 7 6 0 0 0 0 _SHDN 0 SCHMITT vt=1.2 vh=400m trise=300u
S2 4 5 _SHDN 0 SPOW
B1 N005 0 I=10u*dnlim(uplim(V(2),V(4)-2.89,.1), V(5)+2.89, .1)+1n*V(2)
B2 0 N005 I=10u*dnlim(uplim(V(1),V(4)-2.9,.1), V(5)+2.9, .1)+1n*V(1)
R10 4 Mid 10Meg noiseless
R11 Mid 5 500Meg noiseless
A1 3 N009 N009 N009 N009 N009 3 N009 OTA g=1 iout=25m vlow=-1e308 vhigh=1e308
.param vs=220
.model PI VDMOS(Vto=-300m kp=8m  mtriode=430m  ksubthres=10m  pchan noiseless)
.model NI VDMOS(Vto=300m kp=12m mtriode=430m  ksubthres=10m noiseless)
.model DLIMN D(Ron=1k Roff=1Meg Vfwd=3.4  epsilon=100m  noiseless)
.model DLIMP D(Ron=1k Roff=1Meg Vfwd=4.8  epsilon=100m noiseless)
.model DRISE D(Ron=1 Roff=10Meg vfwd= 0 epsilon=10m noiseless)
.model DFALL D(Ron=1 Roff=10Meg vfwd= 0  epsilon=10m ilimit=80u noiseless)
.model DINCLP D(Ron=250  Roff=100T  vfwd=720m epsilon=800m vrev=720m revepsilon=800m noiseless)
.model DANTISAT D(Ron=100 Roff=127.3Meg vfwd=3 epsilon=100m vrev=3 revepsilon=100m noiseless)
.model SREG SW(level=2 Ron=10k Roff=1G vt=-5.2 vh=-100m noiseless)
.model DBSD D(Ron=10k Roff=1G vfwd=2 epsilon=300m ilimit=155.8u noiseless)
.model SPOW SW(Ron=100 Roff=10G vt=.5 vh=-.3 ilimit=890u noiseless)
.model DESD D(Ron=100 Roff=1g Vfwd=700m epsilon=500m noiseless)
.ends ADHV4702-1
