**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 Common Mode Power Line Choke
* Matchcode: 		WE-CMDC
* Library Type:		LTspice
* Version: 		rev21a
* Created/modified by:	Durui
* Date and Time   :		2021-03-25
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.SUBCKT  CMDC    1  2  3  4  PARAMS: 
R_R9  N12325  3  {R2}
R_R8  N13265  N13287  {Rs4}
Kn_K6  L_L11  L_L12  
+  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  4  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7  L_L15  L_L16  
+  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  3  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  4  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  4  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  3  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3} 
.ends  CMDC
****
.subckt 1211_744237102_13u 1 3 4 2
X1  1  2  3  4  CMDC  PARAMS:
+  DL3=0.85u
+  DL4=4.0u
+  DC3=0.45p
+  DC4=0.3p 
+  DR3=1
+  DR4=1550
+  DR5=1
+  DR6=1000
+  Rdc=14m
+  ck=0.8pF
+  L1=10p
+  L2=15p
+  L3=1u
+  L4=2.4u
+  L5=0.42u
+  C1=1.3p
+  C2=1p
+  RS1=5
+  RS2=5
+  RS3=10
+  RS4=0.1
+  RS5=12000
+  R2=1000
.ends 
****
.subckt 1211_744237701_9u 1 3 4 2
X1  1  2  3  4  CMDC  PARAMS:
+  DL3=0.35u
+  DL4=1.38u
+  DC3=0.25p
+  DC4=2.0p 
+  DR3=10
+  DR4=1100
+  DR5=1
+  DR6=600
+  Rdc=6m
+  ck=0.6p
+  L1=15.1p
+  L2=0.1p
+  L3=0.1u
+  L4=0.30u
+  L5=1.01u
+  C1=0.8p
+  C2=20.1p
+  RS1=5
+  RS2=5
+  RS3=1
+  RS4=4850
+  RS5=10
+  R2=100
.ends 
*****
.subckt 1211_744237152_17u 1 3 4 2
X1  1  2  3  4  CMDC  PARAMS:
+  DL3=0.75u
+  DL4=4.0u
+  DC3=0.35p
+  DC4=0.3p 
+  DR3=1
+  DR4=1850
+  DR5=1
+  DR6=1300
+  Rdc=21m
+  ck=0.8pF
+  L1=10p
+  L2=15p
+  L3=1u
+  L4=2800u
+  L5=2800u
+  C1=110p
+  C2=110p
+  RS1=5
+  RS2=5
+  RS3=1
+  RS4=1
+  RS5=30000
+  R2=100
.ends 